US07947851B2
Step a) Formation of 5-{[4-(4-butyl-phenylethynyl)-benzyl]-cyclopentylmethylamino}-2-fluoro-benzoic acid methyl ester
A solution of methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate (800 mg, 1.93 mmol) in DCE (16 mL) was treated with cyclopentanecarboxaldehyde (Aldrich, 283 mg, 2.89 mmol) then with sodium triacetoxyborohydride (1.22 g, 5.78 mmol). The resulting mixture was stirred at 70° C. for 2 h. The reaction mixture was allowed to cool down, dichloromethane (40 mL) was added and the organic layer was washed twice with water and with brine, dried over magnesium sulfate, filtered and concentrated. Purification by flash chromatography on silicagel afforded the title compound as a colorless oil (590 mg, 60%). HPLC, Rt: 6.47 min (purity: 97.1%), LC/MS, M+(ESI): 498.1. 1H NMR (CDCl3) δ: 7.42 (m, 4H), 7.22 (m, 1M), 7.14 (m, 4H), 6.92 (m, 1H), 6.75 (m, 1H), 4.55 (s, 2H), 3.89 (s, 3H), 3.33 (d, 2H), 2.60 (t, J=7.7 Hz, 2H), 2.29 (m, 1H), 1.65 (m, 2H), 1.70-1.46 (m, 6H), 1.42-1.15 (m, 6H), 0.91 (t, J=7.3 Hz, 3H).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | 1.93 mmol, 800 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
reactant | cyclopentanecarboxaldehyde | 2.89 mmol, 283 mg | C1(CCCC1)C=O | C6H10O
reactant | sodium triacetoxyborohydride | 5.78 mmol, 1.22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | DCE | 16 mL | ClCCCl | C2H4Cl2
product | 5-{[4-(4-butyl-phenylethynyl)-benzyl]-cyclopentylmethylamino}-2-fluoro-benzoic acid methyl ester | 590 mg, 60% | COC(C1=C(C=CC(=C1)N(CC1CCCC1)CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCC)F)=O | C33H36FNO2
